US04853149
6.1 ml of a 15% solution of butyllithium in hexane are added to a mixture of 1.4 ml of diisopropylamine in 10 ml of THF at -20°. 3.3 of g of 2-(4-n-hexyloxyphenyl)-5-cyano-5,6-dihydro-4-H-cyclopenta[d]thiazole (which can be prepared from ethyl 2-(4-n-hexyloxyphenyl)-thiazole-2,3-dicarboxylate by (a) reduction of the carbonyl groups, (b) conversion into the tosylate, (c) cyclization by reaction with diethyl malonate, (d) saponification and decarboxylation and (e) introduction of the nitrile group) in 10 ml of THF are then added at -60°, the mixture is stirred for 15 minutes, 1.8 g of 1-bromoheptane are then added and the mixture is stirred at -60° for a further 30 minutes and stirred overnight at room temperature. 10% ammonium chloride solution is added and the mixture is then worked up in the customary manner to give 2-(4-n-hexyloxyphenyl)-5-cyano-5-n-heptyl-5,6-dihydro-4-H-cyclopenta[d]thiazole.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 1.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-(4-n-hexyloxyphenyl)-5-cyano-5,6-dihydro-4-H-cyclopenta[d]thiazole | C(CCCCC)OC1=CC=C(C=C1)C=1SC2=C(N1)CC(C2)C#N | C19H22N2OS
reactant | ethyl 2-(4-n-hexyloxyphenyl)-thiazole-2,3-dicarboxylate | C(CCCCC)OC1=CC=C(C=C1)C1(SC=CN1C(=O)[O-])C(=O)OCC
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-bromoheptane | 1.8 g | BrCCCCCCC | C7H15Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-n-hexyloxyphenyl)-5-cyano-5-n-heptyl-5,6-dihydro-4-H-cyclopenta[d]thiazole | C(CCCCC)OC1=CC=C(C=C1)C=1SC2=C(N1)CC(C2)(CCCCCCC)C#N | C26H36N2OS
